US07074796B2
5a, 3-{3-[4-(2,3-Dichlorophenyl)piperazin-1-yl]propyl}-1H-indole, hydrochloride
A mixture of 3-(3-bromopropyl)-1H-indole (1.19 g), potassium carbonate (1.4 g) and 1-(2,3-dichlorophenyl)piperazine (1.27 g) in anhydrous acetonitrile (10 mL) was boiled under reflux for 5 h and cooled to room temperature. The mixture was added silicagel (7 g), and the solvent was evaporated in vacuo. The compound was purified by flash chromatography on silicagel (eluent:ethylacetate/heptane/triethylamine 49:49:2). Fractions containing the compound were combined and evaporated in vacuo. Recrystallisation from acetonitrile gave the title compound as a white crystalline material. The compound was precipitated as the hydrochloride salt (1 g). Mp 241–242° C. 1H NMR (DMSO-d6): 2.10–2.2,5 (m, 2H); 2.75 (t, 2H); 3.10–3.30 (m, 6H); 3.40 (t, 2H); 3.60 (d, 2H); 7.00 (t, 1H); 7.05 (t, 1H); 7.15 (d, 1H); 7.25 (s, 1H); 7.30–7.40 (m, 3H); 7.55 (d, 1H); 10.90 (b s, 1H); 11.40 (b s, 1H). Ms m/z: 388 (MH+).

reactant | 3-(3-bromopropyl)-1H-indole | 1.19 g | BrCCCC1=CNC2=CC=CC=C12 | C11H12BrN
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2,3-dichlorophenyl)piperazine | 1.27 g | ClC1=C(C=CC=C1Cl)N1CCNCC1 | C10H12Cl2N2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-{3-[4-(2,3-Dichlorophenyl)piperazin-1-yl]propyl}-1H-indole, hydrochloride | Cl.ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCC1=CNC2=CC=CC=C12 | InChI=1S/C21H23Cl2N3.ClH/c22-18-7-3-9-20(21(18)23)26-13-11-25(12-14-26)10-4-5-16-15-24-19-8-2-1-6-17(16)19;/h1-3,6-9,15,24H,4-5,10-14H2;1H
